US05744611
(4S,5S)-4-benzyl-5-hydroxymethyl-oxazolidin-2-one
22.1 g (100 mmol) of (4S,5S)-4-benzyl-oxazolidin-2-one-5-carboxylic acid were dissolved in 120 ml of ethanol. 1.2 ml of concentrated sulphuric acid(11 mmol) were added and the mixture refluxed for 2 hours. 90 ml of ethanolwere then removed by distillation. This solution was then added dropwise within 30 minutes to a suspension of 5.3 g (140 mmol) of NaBH4 in 40 ml of ethanol. Once addition was complete, stirring was continued for 3 hours. 100 ml of water were cautiously added to the colourless suspension and a pH value of 7 was established with concentrated HCl. After 2 hours' stirring at room temperature, the temperature was reduced to 0° C. for a further 2 hours. The solid was filtered out and washed with a littleiced water. The product was then dried under a vacuum at 45° C.

reactant | (4S,5S)-4-benzyl-oxazolidin-2-one-5-carboxylic acid | 100 mmol, 22.1 g | C(C1=CC=CC=C1)[C@@H]1NC(O[C@@H]1C(=O)O)=O | C11H11NO4
reactant | sulphuric acid | 11 mmol, 1.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaBH4 | 140 mmol, 5.3 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | (4S,5S)-4-benzyl-5-hydroxymethyl-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1NC(O[C@@H]1CO)=O | C11H13NO3
